*220CNQ030 MCE 3/30/98
*Ref: IR Power Semiconductors Product Digest '94
*MCE 30V 220A 3us pkg:TO-244 1,2,3
.SUBCKT 220CNQ030 1 2 3
D1 1 2 DA
D2 3 2 DA
.MODEL DA D (IS=313N RS=191U N=1.7 BV=30 IBV=0.56
+ CJO=9.04N VJ=0.75 M=0.333 TT=4.32U EG=.69 XTI=2)
.ENDS 220CNQ030


